US07335799B2
6.10 7-Hydroxymethyl-2,2,12,12-tetramethyltridecanedioic acid diethyl ester
Into a stirred solution of 2,2,12,12-tetramethyl-7-methylene-tridecanedioic acid diethyl ester (3.7 g, 10 mmol) in anhydrous THF (50 mL) was added borane-methyl sulfide complex (2.0 M in THF, 6 mL, 12 mmol) at room temperature and the solution was stirred for 6 h under argon atmosphere. Hydrogen peroxide (50 wt. % solution in water, 9 mL, 144 mmol) and an aqueous solution of sodium hydroxide (30 mL, 2.5 M, 75 mmol) were slowly introduced at 0-5° C. The reaction mixture was stirred for an additional h at room temperature and then extracted with dichloromethane (3×100 mL). The combined organic layers were dried over sodium sulfate, filtered, evaporated, and purified by column chromatography on silica (hexanes:ethyl acetate=95:5, then 90:10) to furnish the product (2.9 g, 77%) as an oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 4.11 (q, 4H, J=7.0 Hz), 3.51 (d, 2H, J=5.4 Hz), 1.60-1.16 (m, 18H), 1.25 (t, 6H, J=7.0 Hz), 1.15 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 178.0, 65.3, 60.1, 42.0, 40.6, 40.4, 30.7, 27.2, 25.4, 25.1, 14.2. HRMS (LSIMS, nba): Calcd. for C22H43O5 (MH+): 387.3110, found 387.3108.

reactant | 2,2,12,12-tetramethyl-7-methylene-tridecanedioic acid diethyl ester | 10 mmol, 3.7 g | C(C)OC(C(CCCCC(CCCCC(C(=O)OCC)(C)C)=C)(C)C)=O | C22H40O4
reactant | borane methyl sulfide | 12 mmol, 2.0 M, 6 mL | B.CSC
reactant | Hydrogen peroxide | 144 mmol, 9 mL | OO | H2O2
reactant | sodium hydroxide | 75 mmol, 2.5 M, 30 mL | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 7-Hydroxymethyl-2,2,12,12-tetramethyltridecanedioic acid diethyl ester | 2.9 g, 77% | C(C)OC(C(CCCCC(CCCCC(C(=O)OCC)(C)C)CO)(C)C)=O | C22H42O5
